US06552188B2
Synthesis of 4-methyl-6-(3,4,5-trimethoxyphenyl)-pyrimidine
4-Chloro-6-methylpyrimidine (913 mg) and 3,4,5-trimethoxyphenylboronic acid (2.73 g) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 4-Chloro-6-methylpyrimidine | 913 mg | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | 3,4,5-trimethoxyphenylboronic acid | 2.73 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
product | 4-methyl-6-(3,4,5-trimethoxyphenyl)-pyrimidine | CC1=NC=NC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H16N2O3
